US03931247
5-(p-Acetamidophenyl)-α-methylfurfuryl Alcohol
To a stirring mixture of 22 g (0.090 mole) of methyl 5-(p-acetamido-phenyl)-2-furyl ketone and 345 ml of 95% dioxane/H2O was added portionwise 3.4 g (0.090 mole) of NaBH4 while maintaining the temperature at 15°-20°. The resulting mixture was stirred overnight at room temperature and then added to ice/water. The solid was filtered and dried at 60° to yield 21 g (95%), m.p. 175°-177°, of title compound.

reactant | methyl 5-(p-acetamido-phenyl)-2-furyl ketone | 0.090 mole, 22 g | C(C)(=O)NC1=CC=C(C=C1)C1=CC=C(O1)C(=O)C | C14H13NO3
reactant | NaBH4 | 0.090 mole, 3.4 g | [BH4-].[Na+]
solvent | dioxane H2O | 345 ml | O1CCOCC1.O
product | 5-(p-Acetamidophenyl)-α-methylfurfuryl Alcohol | C(C)(=O)NC1=CC=C(C=C1)C1=CC=C(C(C)O)O1 | C14H15NO3
